US05252538
Preparation of 1H-pyrazolo[3,4-b]quinoline
Hydrazine hydrate (10 g, 0.20 mol) is added dropwise to a suspension of 2-iodoquinoline-3-carboxaldehyde ethylene ketal (65.5 g, 0.20 mol), (0. Meth-Cohn, J. Chem. Soc., Perkin I, 2509 (1981), m.p. 104.5°-106.5° C. in methanol (250 mL) containing triethylamine 28 mL) at reflux. After refluxing overnight additional hdyrazine hydrate (10 g) is added and the mixture is stirred at reflux for another six and one-half hours. Concentrated hydrochloric acid (75 mL) is then added dropwise, while the mixture is refluxing and the reaction continued for one hour. The reaction mixture is cooled, poured onto ice and allowed to stand for two days. A red solid is removed by filtration and the filtrate is concentrated by rotary evaporation to remove methanol. The remaining solution is adjusted to pH 9 with concentrated ammonium hydroxide and the cream colored precipitate is filtered, washed with water and air dried. Recrystallization from ethanol gives an analytical sample, melting point 207°-208° C., calcd. for C10H 7 N3 :C, 70.99; H, 4.17; N, 24.84. Found: C, 70.82: H, 4.06: N, 24.18.

reactant | Hydrazine hydrate | 0.20 mol, 10 g | O.NN
reactant | 2-iodoquinoline-3-carboxaldehyde ethylene ketal | 0.20 mol, 65.5 g | C1COC(C=2C(=NC3=CC=CC=C3C2)I)O1 | C12H10INO2
reactant | triethylamine | 28 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 75 mL | Cl | ClH
solvent | methanol | 250 mL | CO | CH4O
product | 1H-pyrazolo[3,4-b]quinoline | N1N=CC=2C1=NC1=CC=CC=C1C2 | C10H7N3
